US09422267B2
A solution of (2S,4R)-1-tertbutoxycarbonyl-2-methoxycarbonyl-4-methoxy pyrrolidine (9 g, 34.74 mmol) in 4 M HCl-dioxane (13 mL) was stirred at RT overnight. The reaction mixture was concentrated to dryness, washed with hexane followed by ether and dried under vacuum to afford (2S,4R)-methyl 4-methoxypyrrolidine-2-carboxylate hydrochloride (6 g).

reactant | (2S,4R)-1-tertbutoxycarbonyl-2-methoxycarbonyl-4-methoxy pyrrolidine | 34.74 mmol, 9 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC)C(=O)OC | C12H21NO5
reactant | HCl dioxane | 4 M, 13 mL | Cl.O1CCOCC1
product | (2S,4R)-methyl 4-methoxypyrrolidine-2-carboxylate hydrochloride | 6 g | Cl.CO[C@@H]1C[C@H](NC1)C(=O)OC | InChI=1S/C7H13NO3.ClH/c1-10-5-3-6(8-4-5)7(9)11-2;/h5-6,8H,3-4H2,1-2H3;1H/t5-,6+;/m1./s1
